US03954775
Preparation of Ethyl 9-Chloro-2-methylsulfonylthiazolo[5,4-f]quinoline-8-carboxylate -- Step 2A-II
A mixture of 3.52 g of ethyl 9-hydroxy-2-methylsulfonylthiazolo[5,4-f]quinoline-8-carboxylate and 30 ml of phosphorus oxychloride was refluxed for 6 hours.

reactant | ethyl 9-hydroxy-2-methylsulfonylthiazolo[5,4-f]quinoline-8-carboxylate | 3.52 g | OC1=C(C=NC2=CC=C3C(=C12)SC(=N3)S(=O)(=O)C)C(=O)OCC | C14H12N2O5S2
reactant | phosphorus oxychloride | 30 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | Ethyl 9-Chloro-2-methylsulfonylthiazolo[5,4-f]quinoline-8-carboxylate | ClC1=C(C=NC2=CC=C3C(=C12)SC(=N3)S(=O)(=O)C)C(=O)OCC | C14H11ClN2O4S2
